US07253286B2
4-(5-Nitrothiazol-2-ylsulfanyl)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine
After adding 1.06 g of 2-bromo-5-nitrothiazole and 15 ml of dimethylformamide to 6-phenyl-7H-pyrrolo[2,3-d]pyrimidine-4-thiol, the mixture was stirred at room temperature for 3 hours, and then 0.45 ml of pyridine was added and the mixture was stirred overnight. Water was added, and the precipitated crystals were filtered out, blow-dried and dried under reduced pressure to obtain 1.20 g of the title compound.

reactant | 2-bromo-5-nitrothiazole | 1.06 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 6-phenyl-7H-pyrrolo[2,3-d]pyrimidine-4-thiol | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2S)N1 | C12H9N3S
reactant | pyridine | 0.45 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | 4-(5-Nitrothiazol-2-ylsulfanyl)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | 1.20 g | [N+](=O)([O-])C1=CN=C(S1)SC=1C2=C(N=CN1)NC(=C2)C2=CC=CC=C2 | C15H9N5O2S2
